US04707488
A: 3,5-Difluoro-4-methoxybenzaldehyde
3,5-Difluoro-4-methoxybenzonitrile (0.237 mol), Raney alloy (40 g) and 90% formic acid (400 ml) were reacted substantially as described in Example 7A above to obtain 22.9 g (56%) of a white, low melting solid.

reactant | 3,5-Difluoro-4-methoxybenzonitrile | 0.237 mol | FC=1C=C(C#N)C=C(C1OC)F | C8H5F2NO
reactant | formic acid | 400 ml | C(=O)O | CH2O2
product | 3,5-Difluoro-4-methoxybenzaldehyde | FC=1C=C(C=O)C=C(C1OC)F | C8H6F2O2
